US09334279B2
Preparation of tert-butyl ((2R,6S,7R,9R,13aS,14aR,16aS,Z)-7-ethyl-2-hydroxy-9-methyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate
The same procedure was used as described for of tert-butyl ((2R,6S,7R,9R,13aS,14aR,16aS,Z)-2-hydroxy-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate but tert-butyl ((2S,3R)-3-ethyl-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-5-methyl-1-oxonon-8-en-2-yl)carbamate was used as a starting material instead of tert-butyl ((2S,3R)-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate. 1H NMR (400 MHz, DMSO-d6): δ ppm 8.32 (s, 1H) 7.01 (d, J=9.54 Hz, 1H) 5.38 (m, 2H) 5.08 (m, 1H) 4.40 (br. s., 1H) 4.20 (t, J=7.78 Hz, 1H) 4.00 (m, 1H) 3.67 (m, 2H) 2.85 (q, J=7.53 Hz, 3H) 2.22 (d, J=8.03 Hz, 1H) 1.84 (m, 4H) 1.29 (m, 22H) 0.84 (m, 6H) 0.48 (m, 2H). MS: MS m/z 625.4 (M++1).

reactant | tert-butyl ((2R,6S,7R,9R,13aS,14aR,16aS,Z)-2-hydroxy-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | O[C@@H]1C[C@@H]2N(C([C@H]([C@@H](C[C@@H](CC\C=C/[C@H]3[C@](NC2=O)(C3)C(NS(=O)(=O)C3(CC3)C)=O)C)C)NC(OC(C)(C)C)=O)=O)C1 | C29H46N4O8S
reactant | tert-butyl ((2S,3R)-3-ethyl-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-5-methyl-1-oxonon-8-en-2-yl)carbamate | C(C)[C@@H]([C@@H](C(=O)N1[C@@H](C[C@H](C1)O)C(N[C@]1([C@@H](C1)C=C)C(NS(=O)(=O)C1(CC1)C)=O)=O)NC(OC(C)(C)C)=O)CC(CCC=C)C | C32H52N4O8S
reactant | tert-butyl ((2S,3R)-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate | O[C@@H]1C[C@H](N(C1)C([C@H]([C@@H](CC(CCC=C)C)C)NC(OC(C)(C)C)=O)=O)C(N[C@]1([C@@H](C1)C=C)C(NS(=O)(=O)C1(CC1)C)=O)=O | C31H50N4O8S
product | tert-butyl ((2R,6S,7R,9R,13aS,14aR,16aS,Z)-7-ethyl-2-hydroxy-9-methyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | C(C)[C@@H]1C[C@@H](CC\C=C/[C@H]2[C@](NC([C@H]3N(C([C@H]1NC(OC(C)(C)C)=O)=O)C[C@@H](C3)O)=O)(C2)C(NS(=O)(=O)C2(CC2)C)=O)C | C30H48N4O8S
